US06316482B1
To a solution of benzyl 1-tert-butoxycarbonylindole-6-carboxylate (450 mg) in 5.0% formic acid-methanol (10.0 ml) was added 10% palladium on carbon (153 mg) and the mixture was stirred under nitrogen atmosphere at ambient temperature for 4 hours. The resulting solution was filtered through a bed of celite and the filtrate was concentrated in vacuo. The residue was diluted with chloroform and the solution was washed successively with water and brine. The organic layer was dried over magnesium sulfate and concentrated in vacuo. The residue was triturated with ether:n-hexane (1:5) to give 1-tert-butoxycarbonylindole-6-caroxylic acid (302 mg).

reactant | benzyl 1-tert-butoxycarbonylindole-6-carboxylate | 450 mg | C(C)(C)(C)OC(=O)N1C=CC2=CC=C(C=C12)C(=O)OCC1=CC=CC=C1 | C21H21NO4
solvent | formic acid methanol | 10.0 ml | C(=O)O.CO
catalyst | palladium on carbon | 153 mg | [Pd] | Pd
product | 1-tert-butoxycarbonylindole-6-caroxylic acid | 302 mg | C(C)(C)(C)OC(=O)N1C=CC2=CC=C(C=C12)C(=O)O | C14H15NO4
